US08222424B2
2-Chloro-5-(4-isobutoxy-benzoyl)-benzenesulfonamide
1-Bromo-4-isobutoxy-benzene (625 mg, 2.73 mmol) is dissolved in tetrahydrofuran (2 mL) and cooled to −78° C. The solution is treated with a solution of n-butyllithium (1.6 M in hexanes, 1.7 mL, 2.73 mmol) and stirred 30 minutes after which a solution of 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide (250 mg, 0.91 mmol) in tetrahydrofuran (2 mL) is added. The reaction is allowed to stir for 18 hours while warming to ambient temperature. The reaction is quenched with a saturated solution of ammonium chloride and extracted with ethyl acetate. The organic phase is separated and concentrated in vacuo. The residue is purified by column chromatography (gradient of ethyl acetate in hexanes 10-50%) affording 120 mg (37% yield) of the title compound. 1H NMR (DMSO) δ 1.00 (d, 6H, J=6.56 Hz), 2.01-2.10 (m, 1H), 3.88 (d, 2H, J=6.57 Hz), 7.11 (d, 2H, J=8.85 Hz), 7.76 (d, 2H, J=8.85 Hz), 7.81-7.84 (m, 3H), 7.89 (dd, 1H, J=2.02, 8.08), 8.24 (d, 1H, J=2.02). MS (m/z): 366 (M−1). CHN Calc C, 55.51; H, 4.93; N, 3.81. Found C, 55.38; H, 4.74; N, 3.77.

reactant | 1-Bromo-4-isobutoxy-benzene | 2.73 mmol, 625 mg | BrC1=CC=C(C=C1)OCC(C)C | C10H13BrO
reactant | n-butyllithium | 2.73 mmol, 1.6 M, 1.7 mL | C(CCC)[Li]
reactant | 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 0.91 mmol, 250 mg | ClC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11ClN2O4S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-(4-isobutoxy-benzoyl)-benzenesulfonamide | 120 mg, 37% yield | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OCC(C)C)=O)S(=O)(=O)N | C17H18ClNO4S
